* D:\pedro.lobo\Documents\Altium\LTSpice_Sims\0_10_Dimming\Amplific_Dimming.asc
V1 V 0 12V
V2 InputTr 0 PULSE(0 3.0 0 0.9 0.1 0.01 1 10)
R2 N001 N002 2.7kR
R3 N002 0 1kR
V3 InputPWM 0 PULSE(0 3.0 0 0.0000001 0.0000001 0.000002 0.000005 10000) AC 2
C1 N003 N002 10pC
C2 InputPWM 0 0.1µC
XU2 V N004 N001 Si2302CDS
R1 N004 N003 100R
D1 0 N005 BZX84C10VLY
R5 N001 N005 100R
I1 N005 0 0.0002
XU1 InputPWM N002 V 0 N003 TLV9352
.model D D
.lib D:\pedro.lobo\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.001
.lib D:\pedro.lobo\Documents\Altium\LTSpice_Sims\Libs\sbomb56b\tlv9352.lib
.lib D:\pedro.lobo\Documents\Altium\LTSpice_Sims\Libs\si2302cd\si2302cd.txt
.backanno
.end
